US09290451B2
a) 6-(4-Fluorobenzyl)picolinic acid
6-(4-Fluorobenzyl)picolinonitrile (24 mg, 113 μmol; CAN 1237431-32-1) and powdered sodium hydroxide (18.1 mg, 452 μmol) were dissolved in water (3 mL). The reaction mixture was heated to 90° C. for 2.5 h. Additional powdered sodium hydroxide (18.1 mg, 452 μmol) was added and heating was continued for another 2.5 h. The reaction mixture was poured onto 25 mL ice/0.1N HCl and extracted with EtOAc (2×20 mL). The combined organic layers were washed with ice water/brine (25 mL), dried over Na2SO4 and concentrated in vacuo to give the title compound (21 mg, 80%) as light yellow oil which was used in the next step without further purification. MS (EI): m/e=230.1 [M−H]−.

reactant | 6-(4-Fluorobenzyl)picolinonitrile | 113 μmol, 24 mg | FC1=CC=C(CC2=CC=CC(=N2)C#N)C=C1 | C13H9FN2
reactant | sodium hydroxide | 452 μmol, 18.1 mg | [OH-].[Na+]
reactant | sodium hydroxide | 452 μmol, 18.1 mg | [OH-].[Na+]
reactant | water | 3 mL | O | H2O
product | 6-(4-Fluorobenzyl)picolinic acid | 21 mg, 80% | FC1=CC=C(CC2=CC=CC(=N2)C(=O)O)C=C1 | C13H10FNO2
